US05998442
[2-(2-Methyl-4-methoxyphenyl)-6-methoxybenzo[b]thien-3-yl][4-[2-(1-piperidinyl)ethoxy]phenyl]methanone
By the method described in Example 1, [2-dimethylamino-6-methoxybenzothien-3-yl][4-[2-(1-piperidinyl)ethoxy]phenyl]-methanone (1.6 g, 3.6 mmol) in THF (12 mL) was treated with a 0.65 M THF solution of 2-methyl-4-methoxyphenylmagnesium bromide (20 mL, 13.0 mmol) (prepared from 4-bromo-3-methylanisole, catalytic iodine, and magnesium turnings in THF) to provide, after chromatography (silica gel, 5-10% MeOH in CH2Cl2) 1.02 g (55%) of the title compound as a dark oil: 1H NMR d 1.46 (m, 2H), 1.63 (m, 4H), 2.26 (s, 3H), 2.54 (m, 4H), 2.79 (t, J=5.8 Hz, 2H), 3.47 (s, 3H), 3.89 (s, 3H), 4.12 (t, J=5.8 Hz, 2H), 6.60 (m, 2H), 6.74 (d, J=8.8 Hz, 2H), 6.98 (dd, J=2.4, 8.9 Hz, 1H), 7.19 (d, J=9.3 Hz, 1H), 7.32 (d, J=2.4 Hz, 1H), 7.60 (d, J=8.9 Hz, 1H), 7.69 (d, J=8.8 Hz, 2H); MS (FD) m/e 515 (M+); Anal. calc'd. for C31H33N1O4S1 : C, 72.20; H, 6.45; N, 2.72. Found: C, 72.50; H, 6.56; N, 2.80.

reactant | [2-dimethylamino-6-methoxybenzothien-3-yl][4-[2-(1-piperidinyl)ethoxy]phenyl]-methanone | 3.6 mmol, 1.6 g | CN(C=1SC2=C(C1C(=O)C1=CC=C(C=C1)OCCN1CCCCC1)C=CC(=C2)OC)C | C25H30N2O3S
reactant | 2-methyl-4-methoxyphenylmagnesium bromide | 13.0 mmol, 20 mL | CC1=C(C=CC(=C1)OC)[Mg]Br
reactant | MeOH | CO | CH4O
solvent | THF | 12 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | THF | 0.65 M | C1CCOC1 | C4H8O
product | [2-(2-Methyl-4-methoxyphenyl)-6-methoxybenzo[b]thien-3-yl][4-[2-(1-piperidinyl)ethoxy]phenyl]methanone | 1.02 g, 55% | CC1=C(C=CC(=C1)OC)C1=C(C2=C(S1)C=C(C=C2)OC)C(=O)C2=CC=C(C=C2)OCCN2CCCCC2 | C31H33NO4S
